US04826869
4 G (160 mmol) of 50% sodium hydride were suspended, under nitrogen atmosphere, in 250 ml of anhydrous dimethylformamide. A solution of 15 g (69 mmol) of 2-(3-nitrobenzoyl)pyrrole, prepared, for example, as described in Preparation 3A, in 50 ml of anhydrous dimethylformamide was added thereto, in a dropwise fashion and under stirring, maintaining the temperature at 20°-25° C. The resulting mixture was stirred for 2 additional hours and then a solution of 18 ml (170 mmol) of 1-bromobutane in 50 ml of dry dimethylformamide was added. The reaction mixture was stirred at room temperature for 18 hours further and then poured into 2000 ml of ethyl acetate. The organic extract was washed with water (5×500 ml), dried and evaporated in vacuo. The residue was purified by column chromatography on 1 Kg of silica gel, using hexane-acetone (90:10) as eluant, thus obtaining 18 g (95%) of 1-butyl-2 -(3'-nitrobenzoyl)pyrrole, the title compound, as an oil.

reactant | sodium hydride | 160 mmol | [H-].[Na+]
reactant | 2-(3-nitrobenzoyl)pyrrole | 69 mmol, 15 g | [N+](=O)([O-])C=1C=C(C(=O)C=2NC=CC2)C=CC1 | C11H8N2O3
reactant | 1-bromobutane | 170 mmol, 18 ml | BrCCCC | C4H9Br
reactant | ethyl acetate | 2000 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-butyl-2 -(3'-nitrobenzoyl)pyrrole | 18 g, 95% | C(CCC)N1C(=CC=C1)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H16N2O3
